US05663389
a) 4-(2,5-Dihydroxy-3,4,6-trimethylphenyl)-2-methyl-1-butene
A solution containing 7.6 g (0.029 moles) of 4-(5-acetoxy-2-hydroxy-3,4,6-trimethylphenyl)-2-methyl-1-butene in 90 ml of 95% ethyl alcohol, is added with 90 ml of a solution containing 14.9 g (0.264 moles) of potassium hydroxide in 95% ethyl alcohol. The reaction mixture is kept for 22 hours at 90° C., then is diluted by adding ethyl ether and water, acidified to pH 5 with a 10% aqueous solution of hydrochloric acid and the product is extracted with ethyl ether. The crude product is obtained by evaporation of the solvent and used without further purification.

reactant | 4-(5-acetoxy-2-hydroxy-3,4,6-trimethylphenyl)-2-methyl-1-butene | 0.029 moles, 7.6 g | C(C)(=O)OC=1C(=C(C(=C(C1C)CCC(=C)C)O)C)C | C16H22O3
reactant | potassium hydroxide | 0.264 moles, 14.9 g | [OH-].[K+]
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl alcohol | 90 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-(2,5-Dihydroxy-3,4,6-trimethylphenyl)-2-methyl-1-butene | OC1=C(C(=C(C(=C1C)C)O)C)CCC(=C)C | C14H20O2
